US09340506B2
2-(4-Cyclopropanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yloxy)-N-(5-vinyl-thiazolo[5,4-b]pyridin-2-yl)-acetamide
To mixture of N-(5-Bromo-thiazolo[5,4-b]pyridin-2-yl)-2-(4-cyclopropanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yloxy)-acetamide (Example-A95) (0.135 g, 0.24 mmol), Pd(PPh3)4 (0.014 g, 0.012 mmol) and LiCl (0.031 g, 0.73 mmol) in THF:DMF (1:1, 5 mL) under inert atmosphere was added tributyl(vinyl)stannane (0.23 g, 0.73 mmol) and heated under reflux for 8 hrs. Solvent was removed in vacuo and taken into brine and extracted with ethyl acetate (3×5 mL), washed with water and brine, dried (Na2SO4) and concentrated in vacuo to afford titled compound (0.080 g)

reactant | N-(5-Bromo-thiazolo[5,4-b]pyridin-2-yl)-2-(4-cyclopropanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yloxy)-acetamide | 0.24 mmol, 0.135 g | BrC1=CC=C2C(=N1)SC(=N2)NC(C(OC2CCOCC2)C2=CC=C(C=C2)S(=O)(=O)C2CC2)=O | C22H22BrN3O5S2
reactant | LiCl | 0.73 mmol, 0.031 g | [Li+].[Cl-]
reactant | tributyl(vinyl)stannane | 0.73 mmol, 0.23 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | THF DMF | 5 mL | C1CCOC1.CN(C)C=O
catalyst | Pd(PPh3)4 | 0.012 mmol, 0.014 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-Cyclopropanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yloxy)-N-(5-vinyl-thiazolo[5,4-b]pyridin-2-yl)-acetamide | 0.080 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC2=NC(=CC=C2N1)C=C)OC1CCOCC1 | C24H25N3O5S2
